US07414050B2
e) 5-(4-Amino-3-cyclohex-1-enyl-phenyl)-tetrahydro-pyrimidin-2-one
[2-Bromo-4-(2-oxo-hexahydro-pyrimidin-5-yl)-phenyl]-carbamic acid tert-butyl ester (99 mg, 0.26 mmol, as prepared in the previous step) was dissolved in TFA (1 mL). The resulting mixture was stirred at RT for 30 min and concentrated in vacuo. The residue obtained was dried in vacuo for 1 h and dissolved in EtOH (0.5 mL) and toluene (1 mL). To this solution cyclohex-1-enyl boronic acid (20.5 mg, 0.16 mmol), 2M Na2CO3 (0.5 mL, 1 mmol) and Pd (PPh3)4 (30 mg, 0.025 mmol) were added. The resulting mixture was heated at 80° C. overnight. The reaction mixture was allowed to cool to RT and extracted with EtOAc (2×10 mL). The EtOAc layers were combined, dried (Na2SO4) and concentrated in vacuo. The residue obtained was purified on silica (2% MeOH-EtOAc) to afford the title compound (31 mg) contaminated with Ph3PO, which was used in the next step without further purification: Mass spectrum (ESI, m/z): Calcd. for C16H21N3O, 272.1 (M+H). found 272.1.

reactant | [2-Bromo-4-(2-oxo-hexahydro-pyrimidin-5-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1CNC(NC1)=O)Br)=O | C15H20BrN3O3
reactant | cyclohex-1-enyl boronic acid | 0.16 mmol, 20.5 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | Na2CO3 | 1 mmol, 2M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd (PPh3)4 | 0.025 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Amino-3-cyclohex-1-enyl-phenyl)-tetrahydro-pyrimidin-2-one | 31 mg | NC1=C(C=C(C=C1)C1CNC(NC1)=O)C1=CCCCC1 | C16H21N3O
